US04204060
To a solution of 18.4 g (0.1 mole) of cyanuric chloride and 38.0 g (0.2 moles) of lauryl alcohol in 200 ml of dioxane there were added 9.9 g (0.25 moles) of powdered sodium hydroxide over a period of 10 minutes at a reaction temperature in the range of 25° to 45° C. After 3 hours the reaction mixture was found to be converted. The reaction mixture was poured into chloroform and further treated as indicated in Example I. After evaporation there were obtained 30.4 g of a white, solid substance which upon recrystallization from ethanol yielded 29.1 g of a pure 2,4-dilauroxy-6-chloro-s-triazine having a melting point in the range of 43.5°-44.9° C.

reactant | cyanuric chloride | 0.1 mole, 18.4 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | lauryl alcohol | 0.2 moles, 38.0 g | C(CCCCCCCCCCC)O | C12H26O
reactant | sodium hydroxide | 0.25 moles, 9.9 g | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 2,4-dilauroxy-6-chloro-s-triazine | 29.1 g | C(CCCCCCCCCCC)OC1=NC(=NC(=N1)OCCCCCCCCCCCC)Cl | C27H50ClN3O2
